Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
sulfur dioxide
 
Attending: ___
 
Chief Complaint:
Right hemibody sensory changes and confusion.

 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
The patient is a ___ man with no past medical history 
who presents with an episode of  right hemibody sensory changes 
and confusion. 

Patient reports that he was in his usual state of health this 
evening, he had gone for a ___arly in the morning 
(this is a normal distance for him) and he had adequately 
hydrated and eat and after this run, he was then watching the 
___ Series game.  He went to the bathroom, and 
urinated sitting down. When he stood up, he could not button his 
pants.  He felt lightheaded, but denies any room spinning.  He 
said that he felt uncoordinated, which is why he could not 
button his pants. 

Because of the lightheadedness, he brought himself down to his 
hands and knees.  In that position, he began to experience right 
arm and right leg tingling, which lasted for about 5 minutes.  
He slowly stood up with the assistance of his wife and walk to 
the sofa.  His wife called the nurse on their insurance card and 
they were told to call ___.  While his wife was doing this, 
patient says that he was having a hard time focusing on the TV, 
but is
not sure if he had any loss of vision or double vision during 
this.  Patient's wife reports that during the episode of right 
arm and leg numbness, patient seemed disoriented and "out of 
it".

She said that he could not fully answer her questions, and kept 
trying to buckle his belt buckle and seemed confused about how 
to do it.  He was having a difficult time understanding what 
question she was asking him.  His speech was slow, but not 
slurred.  Wife reports that patient still remained confused by
the time EMS personnel arrived.  He was back to his baseline 
mental status by the time he arrived at ___.

Patient reports an episode of dizziness (lightheadedness) once 
after waking up from a nap ___ years ago.  He said that he fell 
on the floor for a few minutes, but was fine afterwards.  He 
never sought medical attention and this never happened again.

On neurologic review of systems, the patient denies headache, 
difficulty with producing or comprehending speech. Denies 
blurred vision, diplopia, vertigo, tinnitus, hearing difficulty, 
dysarthria, or dysphagia. Denies focal muscle weakness, 
numbness, parasthesia. Denies loss of sensation. Denies bowel or 
bladder incontinence or retention. Denies difficulty with gait.

 
Past Medical History:
No PMHx
High PSA, will see urologist in ___   
 
Social History:
___
Family History:
No family history of seizure or stroke.                         

 
Physical Exam:
ADMISSION EXAM:
===============
NIHSS 0
 Vitals: HR 59 BP 152/81 RR 18 SaO2 100% RA
 General: Awake, cooperative, NAD.
 HEENT: NC/AT
 Neck: Supple
 Pulmonary: Breathing comfortably on room air
 Cardiac: Good peripheral perfusion
 Abdomen: soft, NT, no masses or organomegaly noted.
 Extremities: No ___ edema.
 Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. ___ flat affect. Does not
relay history very clearly but is able to give the facts about
what happened as well as past medical history. Does not make 
much
eye contact. Not much spontaneous speech. Attentive, able to 
name
___ backward without difficulty. Language is fluent with intact
repetition and comprehension. There were no paraphasic errors. 
Pt
was able to name both high and low frequency objects.  Able to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands.  Able to tell me
the months of the year backwards.  There was no evidence of
neglect.

-Cranial Nerves:
 II, III, IV, VI:  PERRL 4 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
 V: Facial sensation intact to light touch.
 VII: Slight left facial asymmetry with symmetric activation,
wife states that this is patient's baseline face.
 VIII: Hearing intact to finger-rub bilaterally.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii and SCM bilaterally.
 XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
 No adventitious movements, such as tremor, noted. No asterixis
noted.
   Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
 L  5    ___   ___  5   5    5  5     5     5   5
 R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, proprioception
throughout. No extinction to DSS.

-DTRs:
   Bi Tri ___ Pat Ach
 L  2  2    2    2   1
 R  2  2    2    2   1
Right toe mute, left toe down

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF bilaterally.

-Gait: Good initiation, takes narrow based normal stride steps
without assistance.

DISCHARGE EXAM:
===============
VS: T: 97.9 HR:46 BP:143/82  RR:14  SaO2:96% on RA
Exam
General: Awake, cooperative, NAD.
HEENT: , no scleral icterus noted, no lesions noted in
oropharynx
Neck: Supple
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: Pulses palpated bilaterally
Skin: no rashes or lesions noted.
 
Neurologic:  

Mental Status: Alert, oriented, attentive. Able to repeat "It is
a sunny day in ___ and "no ifs ands or buts".  Normal
prosody. There were no paraphasic errors. Pt was able to name
both high and low frequency objects (watch/strap). Able to read
without difficulty. Speech was not dysarthric. Able to follow
bothmidline and appendicular commands. Able to repeat 3 words
after 5 minutes.

CN  
II,III: VFF to confrontation. Pupils equal and reactive to light
3mm to 2mm. Acuity: R ___, L ___
III,IV,VI: Extraocular movements intact, no ptosis. No 
nystagmus.
V: sensation intact V1-V3 to light touch  
VII: Facial strength intact/symmetrical, symmetric forehead
wrinkling 
VIII: bilateral response to finger rub.
IX,X: palate elevates symmetrically, uvula midline  
XI: SCM/trapezeii ___ bilaterally  
XII: tongue protrudes midline, no dysarthria  

Motor: Normal bulk and tone, no rigidity; no asterixis or
myoclonus. No pronator drift.  

  Delt Bi Tri WE FE FF   IO  
L 5    ___  5  5     5
R 5    ___  5  5     5
 
  IP Quad ___ PF   
L 5  5     5    ___ 
R 5  5     5    ___

Reflex: No clonus  
  Bi Tri Bra Pat An Plantar  
L ___   2+   2  flexor  
R ___   2+   2  flexor

-Sensory: No deficits to light touch. No extinction to Dual
sensory stimulation. 
 
-Coordination: No intention tremor. 

-Gait: Normal stride

 
Pertinent Results:
ADMISSION LABS:
===============
___ 12:10AM URINE  HOURS-RANDOM
___ 12:10AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 12:10AM   ___ PTT-25.7 ___
___ 12:10AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 12:10AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 11:45PM   GLUCOSE-120* UREA N-18 CREAT-0.9 SODIUM-139 
POTASSIUM-4.5 CHLORIDE-100 TOTAL CO2-29 ANION GAP-10
___ 11:45PM   estGFR-Using this
___ 11:45PM   ALT(SGPT)-22 AST(SGOT)-38 ALK PHOS-98 TOT 
BILI-0.7
___ 11:45PM   LIPASE-27
___ 11:45PM   cTropnT-<0.01
___ 11:45PM   ALBUMIN-4.0 CHOLEST-150
___ 11:45PM   %HbA1c-5.3 eAG-105
___ 11:45PM   TRIGLYCER-110 HDL CHOL-67 CHOL/HDL-2.2 
LDL(CALC)-61
___ 11:45PM   TSH-5.0*
___ 11:45PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 11:45PM   WBC-9.4 RBC-4.20* HGB-12.3* HCT-38.3* MCV-91 
MCH-29.3 MCHC-32.1 RDW-14.1 RDWSD-47.3*
___ 11:45PM   NEUTS-59.9 ___ MONOS-9.6 EOS-1.9 
BASOS-0.4 IM ___ AbsNeut-5.64 AbsLymp-2.64 AbsMono-0.90* 
AbsEos-0.18 AbsBaso-0.04
___ 11:45PM   PLT COUNT-212

DISCHARGE LABS:
===============
___ 10:33AM BLOOD WBC-8.1 RBC-4.67 Hgb-14.0 Hct-43.3 MCV-93 
MCH-30.0 MCHC-32.3 RDW-14.4 RDWSD-48.7* Plt ___
___ 10:33AM BLOOD ___ PTT-28.6 ___
___ 10:33AM BLOOD Glucose-91 UreaN-16 Creat-0.8 Na-139 
K-4.6 Cl-99 HCO3-27 AnGap-13
___ 11:45PM BLOOD %HbA1c-5.3 eAG-105
___ 11:45PM BLOOD Triglyc-110 HDL-67 CHOL/HD-2.2 LDLcalc-61
___ 11:45PM BLOOD TSH-5.0*

IMAGING:
========
CTA Head/Neck ___:
1. Normal head CT 
2. Normal head and neck CTA. 

MRI Brain ___:
There is a small area of slow diffusion in the posterior left 
temporal lobe cortex with associated slight increased signal on 
FLAIR sequence (04:13, 10:10).  No evidence of hemorrhage.  The 
ventricles and sulci are normal in caliber and configuration.  
The major intracranial flow voids are preserved. 
  
There is mucosal thickening in the ethmoid air cells and partial 
opacification of the left mastoid air cells.  There is no 
abnormal fluid signal in the remainder of the visualized 
paranasal sinuses.  The orbits are grossly unremarkable. 
  
IMPRESSION:  
  
Acute infarct in posterior left temporal lobe. 

Lower extremity ultrasound ___:
  
No evidence of deep venous thrombosis in the right or left lower 
extremity 
veins. 

TTE with Bubble ___:
The left atrial volume index is mildly increased. There is an 
intermittent left-to-right color flow Doppler signal across the 
interatrial septum most c/w a small secundum-type atrial septal 
defect and right-to-left flow of >30 microbubbles of agitated 
saline at rest. The estimated right atrial pressure is ___ 
mmHg. There is mild symmetric left ventricular hypertrophy with 
a normal cavity size. There is normal regional and global left 
ventricular systolic function. Quantitative biplane left 
ventricular ejection fraction is 70 %. Left ventricular cardiac 
index is normal (>2.5 L/min/m2). There is no resting left 
ventricular outflow tract gradient.
Transmitral and tissue Doppler suggests normal diastolic 
function, and a normal left ventricular filling pressure (PCWP 
less than 12mmHg). Normal right ventricular cavity size with 
normal free wall motion. The aortic sinus diameter is normal for 
gender with normal ascending aorta diameter for gender. The 
aortic arch diameter is normal with a normal descending aorta 
diameter. The aortic valve leaflets (3) appear structurally 
normal.
There is no aortic valve stenosis. There is no aortic 
regurgitation. The mitral valve leaflets appear structurally 
normal with no mitral valve prolapse. There is trivial mitral 
regurgitation. The tricuspid valve leaflets appear structurally 
normal. There is physiologic tricuspid regurgitation. There is 
mild pulmonary artery systolic hypertension. There is no 
pericardial effusion.

IMPRESSION: Small secundum atrial septal defect/stretched 
foramen ovale with right-to-left flow of >30 microbubbles at 
rest. Mild symmetric left ventricular hypertrophy with normal 
cavity size and regional/global biventricular systolic function.

 
Brief Hospital Course:
PATIENT SUMMARY:
================
___ is a ___ man with no significant past medical 
history who presented to the ED after an episode of right 
hemibody sensory changes and confusion found to have left mesial 
posterior temporal lobe infarct with workup notable for PFO.

His symptoms of confusion and right sided sensory changes 
resolved by the time of arrival in ED. His symptoms were 
consistent with the area of infarct (left mesial posterior 
temporal lobe). He currently has a normal neurologic exam. 
Workup was notable for small secundum atrial septal 
defect/stretched foramen ovale with right-to-left flow of >30 
microbubbles at rest. He has had no previous strokes or risk 
factors for thrombus. It is possible that he had increased right 
to left shunting in the setting of PFO ___ bearing down 
(valsalva) on the toilet caused a stochastic thrombus to cause 
PCA infarct. Lower extremity Doppler ultrasound were negative 
for DVT.

Cardiology was consulted regarding possible PFO closure. He will 
follow up in cardiology clinic within the next few weeks. 
Additionally, he was given a Ziopatch prior to discharge to 
monitor for atrial fibrillation.

Patient had hypercoagulable workup sent in house. He will need 
Factor V Leiden and Prothrombin Mutation Analysis as an 
outpatient.

Lastly, patient was started on ASA 81 mg daily given PFO.

TRANSITIONAL ISSUES:
====================
# Patient started on ASA 81 mg in house, continue indefinitely 
pending PFO closure.

# Please follow up hypercoagulable workup as outpatient. 

# Ziopatch will need to be followed up by cardiology.

# Cardiology to schedule outpatient TEE.

# Please follow up with urology for further evaluation and 
management of elevated PSA.

=
=
=
=
=
=
=
=
=
=
=
=
=
================================================================
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why:  
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.)  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = 61) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) () Yes - (x) No [if LDL 
>70, reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [x] LDL-c less than 70 mg/dL  
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
() Yes - (x) No. If no, why not? -> patient at baseline 
functional status
9. Discharged on statin therapy? () Yes - (x) No [if LDL >70, 
reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [x] LDL-c less than 70 mg/dL  
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A  
 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Travatan 0.004% Ophth Soln  (*NF*) ___ drops Other BID:PRN 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*3 
2.  Travatan 0.004% Ophth Soln  (*NF*) ___ drops Other BID:PRN  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute ischemic stroke
Patent foramen ovale 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized due to symptoms of sensory changes 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.  

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  

- Patent foramen ovale (PFO) 

We are changing your medications as follows:  

- Starting aspirin 81 mg daily.
  
Please take your other medications as prescribed.  
Please follow up with Neurology and your primary care physician 
as listed below.  

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

Sincerely,  
Your ___ Neurology Team  

 
Followup Instructions:
___